* Z:\mnt\design.r\spice\examples\1956-5.asc
L1 N002 OUT 5µ
C1 N004 0 1000p
C2 N002 N001 .33µ
D1 0 N002 1N5819
C3 OUT 0 100µ Rser=.1
D2 OUT N001 1N914
V1 IN 0 20
XU1 0 N002 MP_01 IN MP_02 N001 MP_03 MP_04 MP_05 OUT N004 OUT MP_06 MP_07 N003 LT1956-5
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT1956-5.sub
.backanno
.end
